US20010052156A1
1.3.11. Preparation of N-(5-amino-2-Nitrophenyl)Azepan
Step b) was carried out in the same way as Example 1.3.3. step b) by reacting N-(5-acetylamino-2-nitrophenyl)azepan with hydrochloric acid.

reactant | N-(5-acetylamino-2-nitrophenyl)azepan | C(C)(=O)NC=1C=CC(=C(C1)N1CCCCCC1)[N+](=O)[O-] | C14H19N3O3
reactant | hydrochloric acid | Cl | ClH
product | N-(5-amino-2-Nitrophenyl)Azepan | NC=1C=CC(=C(C1)N1CCCCCC1)[N+](=O)[O-] | C12H17N3O2
